2181-04-26 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   None
   S: Sedated, denies CP, has some discomfort from ETT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-26**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 72 (61 - 76) bpm
   BP: 98/57(65) {97/54(65) - 126/76(88)} mmHg
   RR: 15 (15 - 17) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,156 mL
                                                                    303 mL
   PO:
             TF:
   IVF:
                                                                  3,156 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    315 mL
   Urine:
                                                                    125 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,931 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   PEEP: 8 cmH2O
   FiO2: 75%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 92%
   ABG: 7.40/52/95.[**Numeric Identifier 252**]/32/5
   Ve: 8.3 L/min
   PaO2 / FiO2: 127
   Physical Examination
   VS: 98.4 hr 79, 91/72, rr 15, 95% on 100% Fi02
   GENERAL: intubated and sedated
   HEENT: NCAT. Sclerae anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. OG tube and ET tube in place
   NECK: supple, no JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: clear anteriorly and laterally.
   ABDOMEN: NABS. Soft, NTND.
   EXTREMITIES: No edema. 2 left femoral sheaths, 1 right femoral sheath,
   no hematomas.
   NEURO: opens eyes, responds to voice, moves all extremities  to command
   PULSES: b/l pedal pulses palpable
   Labs / Radiology
   169 K/uL
   15.4 g/dL
   108 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   9 mg/dL
   103 mEq/L
   142 mEq/L
   45.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2181-4-25**]  10:04 PM
                             [**2181-4-26**]  04:28 AM
   WBC
   10.5
   Hct
   45.6
   Plt
   169
   Cr
   0.7
   TCO2
   33
   Glucose
   108
   Other labs: PT / PTT / INR:27.9/37.7/2.8, Lactic Acid:1.3 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   48 y/o with history of neuromuscular disorder, paroxysmal atrial
   fibrillation s/p ablation today, hypotensive after protamine and
   difficult to extubate.
   Respiratory distress: patient difficult to extubate after case.
   attempted briefly, but since patient was hypotensive, sent to CCU.
   - CXR to check ET tube placement
   - ABG now
   - check NIF
   - attempt to extubate in the AM
   - propofol for sedation
   Hypotension: since getting protamine in the EP lab. likely protamine
   reaction, since it can cause sudden, transient drop in blood pressure
   with rapid infusion. now normotensive on minimal phenylephrine.
   afebrile and no white count so sepsis unlikely. likely transient, now
   resolving
   - wean phenylephrine as tolerated
   - check UA, CXR
   - discontinue sheaths in the AM, still has 2 right femoral and 1 left
   femoral sheath.
   Atrial fibrillation: s/p ablation.
   - will continue coumadin for now
   - continue propafenone for now
   - check INR In MA
   Mitochondrial Neuromuscular disorder: If patient unable to extubate in
   the AM, may need neurology consult.
   FEN: NPO for now
   ACCESS: 3 femoral sheaths
   PROPHYLAXIS: coumadin, chlorhexadine, lansoprazole
   CODE: Presumed full
   DISPO: when extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-4-25**] 09:21 PM
   Sheath - [**2181-4-25**] 09:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2181-04-27 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2181-4-26**] 08:00 AM
 SHEATH - STOP [**2181-4-26**] 08:30 AM
 SHEATH - STOP [**2181-4-26**] 08:30 AM
 SHEATH - STOP [**2181-4-26**] 08:40 AM
   -extubated but difficult to maintain sats at first bc of secretions,
   apparently been a problem in the past with intubations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2181-4-26**] 08:25 AM
   Furosemide (Lasix) - [**2181-4-26**] 02:00 PM
   Coumadin (Warfarin) - [**2181-4-26**] 05:30 PM
   Lansoprazole (Prevacid) - [**2181-4-26**] 10:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-27**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 72 (72 - 82) bpm
   BP: 118/71(81) {86/47(53) - 137/95(111)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    866 mL
                  PO:
                  TF:
   IVF:
                                                                    746 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    290 mL
   Urine:
                                                                  1,725 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -859 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI: 62
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 93%
   ABG: 7.38/51/67/30/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 84
   Physical Examination
   GENERAL: intubated and sedated
   HEENT: NCAT. Sclerae anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. OG tube and ET tube in place
   NECK: supple, no JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: clear anteriorly and laterally.
   ABDOMEN: NABS. Soft, NTND.
   EXTREMITIES: No edema. 2 left femoral sheaths, 1 right femoral sheath,
   no hematomas.
   NEURO: opens eyes, responds to voice, moves all extremities  to command
   PULSES: b/l pedal pulses palpable
   Labs / Radiology
   123 K/uL
   14.6 g/dL
   136 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   10 mg/dL
   104 mEq/L
   142 mEq/L
   43.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2181-4-25**]  10:04 PM
                             [**2181-4-26**]  04:28 AM
                             [**2181-4-26**]  07:23 AM
                             [**2181-4-26**]  03:18 PM
                             [**2181-4-27**]  03:17 AM
   WBC
   10.5
   7.7
   Hct
   45.6
   48
   43.2
   Plt
   169
   123
   Cr
   0.7
   0.6
   TCO2
   33
   29
   31
   Glucose
   108
   136
   Other labs: PT / PTT / INR:24.5/31.5/2.4, Lactic Acid:1.3 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   48 y/o with history of neuromuscular disorder, paroxysmal atrial
   fibrillation s/p ablation admitted for hypotension after protamine
   which resolved and difficult extubation now with ongoing hypoxia.
   Hypoxia: Likely from chronic meuromuscular disorder.  Extubated with
   ongoing hypoxia. It is possible that this is chronic but this is
   unclear.
   - repeat CXR
   - will follow up with outpatient doctor [**First Name (Titles) 645**] [**Last Name (Titles) 3433**] pulmonary
   status, if still unclear will consider further work up of respiratory
   problem.
   - incentive spirometer
   - hold off on abx since no leukocytosis and afebrile >24 hours
   - sputum culture
   Atrial fibrillation: s/p pulm vein isolation, successful as patient has
   been in NSR since
   - monitor on tele
   - will continue coumadin for now
   - continue propafenone
   - [**Doctor Last Name **] of hearts monitor on discharge
   Mitochondrial Neuromuscular disorder: Patient
s low sats may have to do
   with diaphragmatic weakness and inability to mobilize secretions.
   -consider neuro consult if not improved
   Hypotension: Resolved.Probably from protamine in the EP lab.  Also PEEP
   reduces preload, contributing to hypotension.
   FEN: doppoff for meds, S+S consult pending
   ACCESS: PIV
   PROPHYLAXIS: coumadin
   CODE: Presumed full
   DISPO: once improvement in oxygen saturation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-4-25**] 09:21 PM
   Sheath - [**2181-4-25**] 09:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: not indicated
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2181-04-28 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Still hypoxic. Had CT Chest and CTA to eval etiology of hypoxia as
   below. ABG 7.41/58/56/38. Pulm consulted and felt hypoxia related to
   diaphragmatic weakness and atelectasis, +/- aspiration. Recommended IS,
   OOB to chair, sleep study, PFTS (standing and supine) as outpt. NIF and
   VC low and they will repeat tomorrow.
   Diuresed in am. Negative 1.4 L
   Getting repeat echo;
   Seen by S/S and aspirates but does better with nectar thickened
   liquids. Ordered video swallow as outpt
   Home O2 set up but someone will need to call company when leaves
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-4-27**] 11:15 AM
   Coumadin (Warfarin) - [**2181-4-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-28**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 65 (64 - 72) bpm
   BP: 121/73(84) {102/39(58) - 124/74(86)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 89%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                    400 mL
                  PO:
                                                                    400 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    490 mL
   Urine:
                                                                  1,885 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,485 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: 7.41/58/56/35/9
   NIF: -38 cmH2O
   PaO2 / FiO2: 70
   Physical Examination
   GENERAL: Chronically ill, NAD
   HEENT: NCAT. Sclerae anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. OG tube and ET tube in place
   NECK: supple, no JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: clear anteriorly and laterally.
   ABDOMEN: NABS. Soft, NTND.
   EXTREMITIES: No edema. 2 left femoral sheaths, 1 right femoral sheath,
   no hematomas.
   NEURO: opens eyes, responds to voice, moves all extremities  to command
   PULSES: b/l pedal pulses palpable
   Labs / Radiology
   123 K/uL
   14.6 g/dL
   143 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   10 mg/dL
   102 mEq/L
   143 mEq/L
   43.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2181-4-25**]  10:04 PM
                             [**2181-4-26**]  04:28 AM
                             [**2181-4-26**]  07:23 AM
                             [**2181-4-26**]  03:18 PM
                             [**2181-4-27**]  03:17 AM
                             [**2181-4-27**]  05:05 PM
                             [**2181-4-27**]  05:35 PM
   WBC
   10.5
   7.7
   Hct
   45.6
   48
   43.2
   Plt
   169
   123
   Cr
   0.7
   0.6
   0.5
   TCO2
   33
   29
   31
   38
   Glucose
   108
   136
   143
   Other labs: PT / PTT / INR:24.5/31.5/2.4, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging: CTA
   1. No PE
   2. Unchanged low lung volumes and atelectasis.
   3. 6 mm nodule now seen in RUL. 3 month CT followup indicated.
   4. +3 cm heterogeneous left thyroid nodule, for which ultrasound may be
   indicated.
   Assessment and Plan
   48 y/o with history of neuromuscular disorder, paroxysmal atrial
   fibrillation s/p ablation admitted for hypotension after protamine
   which resolved and difficult extubation now with ongoing hypoxia.
   Hypoxia: Likely from chronic neuromuscular disorder and diaphragmatic
   weakness +/- aspiration and atelectasis given dependent bibasilar
   parenchymal opacities on Chest CT.  Extubated with ongoing hypoxia. It
   is possible that this is chronic but this is unclear.
   - incentive spirometer
   - aspiration precautions, nectar thickened liquids, video swallow on
   Monday or as an outpt
   - will likely need home O2 which has been set up if goes home
   - repeat NIF and VC by pulmonary
   - appreciate pulm recs
   - echo today
   - hold off on abx since no leukocytosis and afebrile >24 hours
   - f/u sputum culture
   Atrial fibrillation: s/p pulm vein isolation, successful as patient has
   been in NSR since
   - monitor on tele
   - will continue coumadin for now
   - continue propafenone
   - [**Doctor Last Name **] of hearts monitor on discharge
   Mitochondrial Neuromuscular disorder: Patient
s low sats may have to do
   with diaphragmatic weakness and inability to mobilize secretions.
   -consider neuro consult if not improved
   Hypotension: Resolved.Probably from protamine in the EP lab.
   Thyroid nodule: follow up as outpatient
   FEN: nectar thickened liquids and ground solids
   ACCESS: PIV
   PROPHYLAXIS: coumadin
   CODE: Presumed full
   DISPO: plan for discharge
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-4-26**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-04-29 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - TTE: mild RV enlargement with preserved wall motion. Biatrial
   enlargement.
   - Awaiting PT consult.
   - [**First Name9 (NamePattern2) **] [**First Name4 (NamePattern1) 684**] [**Last Name (NamePattern1) **] (Pulm fellow) when d/c'd so she can set up
   follow-up.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-29**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 53 (53 - 69) bpm
   BP: 86/45(55) {82/45(55) - 116/70(81)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                    840 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                      0 mL
   Urine:
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   NIF: -30 cmH2O
   Physical Examination
   GENERAL: Chronically ill, NAD
   HEENT: NCAT. Sclerae anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. OG tube and ET tube in place
   NECK: supple, no JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: clear anteriorly and laterally.
   ABDOMEN: NABS. Soft, NTND.
   EXTREMITIES: No edema. 2 left femoral sheaths, 1 right femoral sheath,
   no hematomas.
   NEURO: opens eyes, responds to voice, moves all extremities  to command
   PULSES: b/l pedal pulses palpable
   Labs / Radiology
   145 K/uL
   14.5 g/dL
   194 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.0 mEq/L
   11 mg/dL
   102 mEq/L
   141 mEq/L
   44.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2181-4-25**]  10:04 PM
                             [**2181-4-26**]  04:28 AM
                             [**2181-4-26**]  07:23 AM
                             [**2181-4-26**]  03:18 PM
                             [**2181-4-27**]  03:17 AM
                             [**2181-4-27**]  05:05 PM
                             [**2181-4-27**]  05:35 PM
                             [**2181-4-28**]  07:03 AM
   WBC
   10.5
   7.7
   6.8
   Hct
   45.6
   48
   43.2
   44.0
   Plt
   169
   123
   145
   Cr
   0.7
   0.6
   0.5
   0.7
   TCO2
   33
   29
   31
   38
   Glucose
   108
   136
   143
   194
   Other labs: PT / PTT / INR:19.9/27.1/1.9, Lactic Acid:0.9 mmol/L,
   Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   48 y/o with history of neuromuscular disorder, paroxysmal atrial
   fibrillation s/p ablation admitted for hypotension after protamine
   which resolved and difficult extubation now with ongoing hypoxia.
   Hypoxia: Likely from chronic neuromuscular disorder and diaphragmatic
   weakness +/- aspiration and atelectasis given dependent bibasilar
   parenchymal opacities on Chest CT.  Extubated with ongoing hypoxia. It
   is possible that this is chronic but this is unclear.
   - incentive spirometer
   - aspiration precautions, nectar thickened liquids, video swallow on
   Monday or as an outpt
   - will likely need home O2 which has been set up if goes home
   - repeat NIF and VC by pulmonary
   - appreciate pulm recs
   - echo today
   - hold off on abx since no leukocytosis and afebrile >24 hours
   - f/u sputum culture
   Atrial fibrillation: s/p pulm vein isolation, successful as patient has
   been in NSR since
   - monitor on tele
   - will continue coumadin for now
   - continue propafenone
   - [**Doctor Last Name **] of hearts monitor on discharge
   Mitochondrial Neuromuscular disorder: Patient
s low sats may have to do
   with diaphragmatic weakness and inability to mobilize secretions.
   -consider neuro consult if not improved
   Hypotension: Resolved.Probably from protamine in the EP lab.
   Thyroid nodule: follow up as outpatient
   FEN: nectar thickened liquids and ground solids
   ACCESS: PIV
   PROPHYLAXIS: coumadin
   CODE: Presumed full
   DISPO: plan for discharge
   ICU Care
   Nutrition:
   Comments: Soft cardiac diet, nectar thick liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-4-26**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: Pending PT eval